US06262045B1
10.3. Ethyl 8-fluoro-5-(methoxymethyl)-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate
A suspension of 3.9 g (11 mmol) of ethyl 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate in 200 ml of dimethylformamide is added to a suspension of 0.66 g (16 mmol) of sodium hydride in 100 ml of dimethylformamide. The mixture is stirred for 1.5 h at room temperature and a solution of 1.15 ml (14.3 mmol) of chloromethoxymethane in 10 ml of tetrahydrofuran is added. The mixture is stirred for 2 h, a solution of dilute hydrochloric acid is added and the precipitate is collected by filtration and dried under reduced pressure. 4.1 g (10.4 mmol) of solid are isolated, which solid is used as is in the following stage.

reactant | ethyl 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 11 mmol, 3.9 g | FC1=CC=2C3=C(NC2C=C1)C(N(N=C3C(=O)OCC)C3=CC=CC=C3)=O | C19H14FN3O3
reactant | sodium hydride | 16 mmol, 0.66 g | [H-].[Na+]
reactant | chloromethoxymethane | 14.3 mmol, 1.15 ml | ClCOC | C2H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 8-fluoro-5-(methoxymethyl)-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 10.4 mmol, 4.1 g | FC1=CC=2C3=C(N(C2C=C1)COC)C(N(N=C3C(=O)OCC)C3=CC=CC=C3)=O | C21H18FN3O4
